US06846832B2
a) 5-Methoxy-2-(2-methoxy-ethyl)-2,3-dihydro-isoindol-1-one
A mixture of 2-bromomethyl-4-methoxy-benzoic acid methyl ester (1.0 g, 3.9 mmol), triethylamine (391 mg, 3.9 mmol) and 2-methoxy-ethylamine (348 mg, 4.6 mmol) was heated under reflux for 2 h. After cooling to RT the mixture was filtered and evaporated. The residue was purified by chromatography (SiO2, Heptane:EtOAc 1:1 to EtOAc) to afford the title product (260 mg, 30%) as a light yellow solid. MS m/e=221.3 (M+).

reactant | 2-bromomethyl-4-methoxy-benzoic acid methyl ester | 3.9 mmol, 1.0 g | COC(C1=C(C=C(C=C1)OC)CBr)=O | C10H11BrO3
reactant | triethylamine | 3.9 mmol, 391 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methoxy-ethylamine | 4.6 mmol, 348 mg | COCCN | C3H9NO
product | 5-Methoxy-2-(2-methoxy-ethyl)-2,3-dihydro-isoindol-1-one | 260 mg, 30% | COC=1C=C2CN(C(C2=CC1)=O)CCOC | C12H15NO3
